data/polar.json
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:6])([Cl:7])[CH:16]=[C:21]([Cl:23])[c:24]2[cH:4][cH:8][cH:20][n:5][c:15]2[C:19]1=[O:12].[CH3:1][C:9](=[C:3]=[N-:10])[c:11]1[cH:13][cH:17][cH:22][cH:18][cH:14]1>>[CH3:1][C:9]([C:3]#[N:10])([Cl:6])[c:11]1[cH:13][cH:17][cH:22][cH:18][cH:14]1.[c:2]1([Cl:7])[cH:16][c:21]([Cl:23])[c:24]2[cH:4][cH:8][cH:20][n:5][c:15]2[c:19]1[O-:12]", "epd": [["LP-/Pi+", [10], [3, 10]], ["Pi-/Sigma+", [9, 3], [9, 6]], ["Sigma-/Pi+", [6, 2], [2, 19]], ["Pi-/LP+", [19, 12], [12]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[O-:2][c:3]1[cH:13][cH:10][c:12]([CH3:7])[cH:11][cH:14]1.[cH:1]1[cH:4][cH:15][c:9]([N+:6](=[CH2:8])[CH3:17])[cH:16][cH:5]1>>[cH:1]1[cH:4][cH:15][c:9]([N:6]([CH2:8][O:2][c:3]2[cH:13][cH:10][c:12]([CH3:7])[cH:11][cH:14]2)[CH3:17])[cH:16][cH:5]1", "epd": [["LP-/Sigma+", [2], [2, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "N-Acyliminium cyclization", "rsmi": "[O:1]=[C:9]([N+:2]([CH3:10])=[CH:3][CH2:5][CH2:4][CH:8]=[CH2:6])[CH3:7]>>[O:1]=[C:9]([N:2]([CH3:10])[CH:3]1[CH2:5][CH2:4][CH:8]([CH2+:6])1)[CH3:7]", "epd": [["Pi-/Sigma+", [6, 8], [3, 8]], ["Pi-/LP+", [2, 3], [2]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:7])[C:23]([C:2]#[N:8])=[CH:3][c:27]1[cH:5][cH:17][cH:28][cH:18][cH:6]1.[cH:4]1[cH:14][cH:9][c:21]([C:16](=[C:11]2[N:12]([CH3:25])[C:19]([CH3:24])=[C:29]([CH3:26])[S:20]2)[O:22][CH3:13])[cH:10][cH:15]1>>[C:1](=[N-:7])=[C:23]([C:2]#[N:8])[CH:3]([C:16]([c:11]1[n+:12]([CH3:25])[c:19]([CH3:24])[c:29]([CH3:26])[s:20]1)([c:21]1[cH:9][cH:14][cH:4][cH:15][cH:10]1)[O:22][CH3:13])[c:27]1[cH:5][cH:17][cH:28][cH:18][cH:6]1", "epd": [["LP-/Pi+", [12], [11, 12]], ["Pi-/Sigma+", [16, 11], [16, 3]], ["Pi-/Pi+", [3, 23], [23, 1]], ["Pi-/LP+", [1, 7], [7]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[c:3]1([CH:9]=[N+:8]=[N-:14])[cH:6][cH:4][cH:10][cH:5][cH:7]1.[cH:1]1[cH:2][cH:13][cH:16][cH+:11][cH:15][cH:12]1>>[CH:1]1=[CH:2][CH:13]=[CH:16][CH:11]([CH:9]([c:3]2[cH:6][cH:4][cH:10][cH:5][cH:7]2)[N+:8]#[N:14])[CH:15]=[CH:12]1", "epd": [["LP-/Pi+", [14], [8, 14]], ["Pi-/Sigma+", [9, 8], [9, 11]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[C:1]12=[N:3][CH2:5][CH2:15][CH2:13][N:6]1[c:4]1[c:12]([cH:2][cH:30][cH:14][cH:26]1)[S:7]2.[cH:8]1[c:16]([CH+:29][c:17]2[cH:9][c:20]([F:24])[cH:28][c:21]([F:25])[cH:10]2)[cH:11][c:18]([F:22])[cH:27][c:19]1[F:23]>>[c:1]12[n+:6]([c:4]3[c:12]([cH:2][cH:30][cH:14][cH:26]3)[s:7]1)[CH2:13][CH2:15][CH2:5][N:3]2[CH:29]([c:16]1[cH:8][c:19]([F:23])[cH:27][c:18]([F:22])[cH:11]1)[c:17]1[cH:9][c:20]([F:24])[cH:28][c:21]([F:25])[cH:10]1", "epd": [["LP-/Pi+", [6], [1, 6]], ["Pi-/Sigma+", [3, 1], [3, 29]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:3]1(=[O:5])[N-:4][CH2:16][CH2:17][O:10]1.[CH3:1][CH2:8][O:7][C:19]([CH:2]=[C:9]([CH3:20])[N:25]=[N:13][C:6](=[O:14])[NH:18][c:21]1[cH:23][cH:11][cH:22][cH:12][cH:24]1)=[O:15]>>[CH3:1][CH2:8][O:7][C:19]([CH:2]([N:4]1[C:3](=[O:5])[O:10][CH2:17][CH2:16]1)[C:9]([CH3:20])=[N:25][N:13]=[C:6]([O-:14])[NH:18][c:21]1[cH:23][cH:11][cH:22][cH:12][cH:24]1)=[O:15]", "epd": [["LP-/Sigma+", [4], [4, 2]], ["Pi-/Pi+", [2, 9], [9, 25]], ["Pi-/Pi+", [25, 13], [13, 6]], ["Pi-/LP+", [6, 14], [14]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][O:2][c:5]1[cH:27][cH:11][c:9]([CH:21]=[C:20]2[CH:22]=[C:6]([Br:17])[C:8](=[O:15])[C:7]([Br:18])=[CH:23]2)[cH:12][cH:28]1.[O-:3][N+:24]([O-:4])=[C:16]1[CH:14]=[CH:26][CH:13]=[CH:19][C:25]1=[O:10]>>[CH3:1][O:2][c:5]1[cH:27][cH:11][c:9]([CH:21]([O:10][c:25]2[c:16]([N+:24](=[O:3])[O-:4])[cH:14][cH:26][cH:13][cH:19]2)[c:20]2[cH:22][c:6]([Br:17])[c:8]([O-:15])[c:7]([Br:18])[cH:23]2)[cH:12][cH:28]1", "epd": [["LP-/Pi+", [3], [24, 3]], ["Pi-/Pi+", [16, 24], [25, 16]], ["Pi-/Sigma+", [10, 25], [10, 21]], ["Pi-/Pi+", [21, 20], [20, 22]], ["Pi-/Pi+", [22, 6], [6, 8]], ["Pi-/LP+", [8, 15], [15]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:8])([Cl:9])[CH:17]=[C:25]([Cl:26])[c:28]2[cH:4][cH:12][cH:23][n:7][c:16]2[C:21]1=[O:15].[CH:1]1([C:5](=[O:18])[O:29][CH3:10])[CH2:11][CH2:22][CH2:19][N:27]1[C:20]1=[CH:13][CH2:3][CH2:24][CH2:14][CH2:6]1>>[CH:1]1([C:5](=[O:18])[O:29][CH3:10])[CH2:11][CH2:22][CH2:19][N+:27]1=[C:20]1[CH2:6][CH2:14][CH2:24][CH2:3][CH:13]1[Cl:8].[c:2]1([Cl:9])[cH:17][c:25]([Cl:26])[c:28]2[cH:4][cH:12][cH:23][n:7][c:16]2[c:21]1[O-:15]", "epd": [["LP-/Pi+", [27], [20, 27]], ["Pi-/Sigma+", [13, 20], [13, 8]], ["Sigma-/Pi+", [8, 2], [2, 21]], ["Pi-/LP+", [21, 15], [15]]]}
